US04555521
Under a dry nitrogen atmosphere 3.0 g (0.0013 mole) of 3-chloro-4-(4-methoxyphenyl)-1,2,5-thiadiazole (prepared by the method of Example 2 from p-anisaldehyde) was added to a stirred suspension of 0.78 g (0.0015 mole) of anhydrous sodium methoxide in 30 ml of N,N-dimethylformamide. The reaction mixture became exothermic. The mixture was allowed to cool slowly to room temperature and stir for approximately 18 hours. Approximately 0.1 g of anhydrous sodium methoxide was added and the mixture stirred an additional three hours. The reaction mixture was poured into 250 ml of ice water and the total extracted with diethyl ether. The ether extract was washed with water, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated from the filtrate under reduced pressure to leave a beige solid. The solid was chromatographed on silica gel, eluted with methylene chloride to give a yellow solid. The yellow solid was purified by column chromatography on silica gel, eluted with n-hexane:ethyl acetate (7:1) to yield 0.7 g of 3-methoxy-4-(4-methoxyphenyl)-1,2,5 -thiadiazole, Compound 32 of Table I.

reactant | 3-chloro-4-(4-methoxyphenyl)-1,2,5-thiadiazole | 0.0013 mole, 3.0 g | ClC1=NSN=C1C1=CC=C(C=C1)OC | C9H7ClN2OS
reactant | p-anisaldehyde | C(C1=CC=C(C=C1)OC)=O | C8H8O2
reactant | sodium methoxide | 0.0015 mole, 0.78 g | C[O-].[Na+]
reactant | sodium methoxide | 0.1 g | C[O-].[Na+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-methoxy-4-(4-methoxyphenyl)-1,2,5 -thiadiazole | 0.7 g | COC1=NSN=C1C1=CC=C(C=C1)OC | C10H10N2O2S
